US04550190
A mixture of 1.3 g of [[8-acetyl-7-[3-(4-acetyl-6-chloro-3-hydroxy-2-propylphenoxy)propoxy]-2-naphthalenyl]oxy]acetic acid methyl ester, 48 ml of methanol and 24 ml of 1N sodium hydroxide was stirred at reflux for one hour and 20 minutes. The methanol was removed in vacuo the aqueous solution was acidified to pH 3. The sticky solid was extracted with chloroform, washed with water, dried over magnesium sulfate and concentrated in vacuo to give an oil which was crystallized from ether to yield 0.93 g (78%) of [[8-Acetyl-7-[3-(4-acetyl-6-chloro-3-hydroxy-2-propylphenoxy)propoxy]-2-naphthalenyl]oxy]acetic acid, mp 132°-134° C.

reactant | [[8-acetyl-7-[3-(4-acetyl-6-chloro-3-hydroxy-2-propylphenoxy)propoxy]-2-naphthalenyl]oxy]acetic acid methyl ester | 1.3 g | COC(COC1=CC2=C(C(=CC=C2C=C1)OCCCOC1=C(C(=C(C=C1Cl)C(C)=O)O)CCC)C(C)=O)=O | C29H31ClO8
reactant | sodium hydroxide | 1N, 24 ml | [OH-].[Na+]
solvent | methanol | 48 ml | CO | CH4O
product | [[8-Acetyl-7-[3-(4-acetyl-6-chloro-3-hydroxy-2-propylphenoxy)propoxy]-2-naphthalenyl]oxy]acetic acid | 0.93 g, 78% | C(C)(=O)C=1C(=CC=C2C=CC(=CC12)OCC(=O)O)OCCCOC1=C(C(=C(C=C1Cl)C(C)=O)O)CCC | C28H29ClO8
